US08729105B2
Preparation of 5-benzo[1,2,5]oxadiazol-5-yl-6-(2,2,2-trifluoro-ethoxy)-nicotinic acid
The title compound was synthesized in analogy to Example BQ using 5-bromo-6-(2,2,2-trifluoroethoxy)-3-pyridinecarboxylic acid (CAN 1211586-75-2) and B-2,1,3-benzoxadiazol-5-yl-boronic acid, (CAN 426268-09-9) as starting materials; LC-MS (UV peak area/ESI) 48%, 338.0 (M−H)−.

reactant | 5-bromo-6-(2,2,2-trifluoroethoxy)-3-pyridinecarboxylic acid | BrC=1C=C(C=NC1OCC(F)(F)F)C(=O)O | C8H5BrF3NO3
reactant | B-2,1,3-benzoxadiazol-5-yl-boronic acid | N=1ON=C2C1C=CC(=C2)B(O)O | C6H5BN2O3
product | 5-benzo[1,2,5]oxadiazol-5-yl-6-(2,2,2-trifluoro-ethoxy)-nicotinic acid | N1=C2C(=NO1)C=C(C=C2)C=2C(=NC=C(C(=O)O)C2)OCC(F)(F)F | C14H8F3N3O4
